US07557213B2
3-iodo-1H-quinolin-4-one (1.36 g, 5 mmol, 1 equiv) in 5 mL of DMF was treated with 0.22 g of NaH (1.1 equiv) for 10 min. 2-Bromomethyl-6-methyl-pyridine (1.11 g, 1.2 equiv) was then added and stirring continued for 3 h. The reaction was quenched by slow addition of saturated aqueous solution of NH4Cl. Standard workup followed by flash chromatography gave 3-iodo-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one as a white solid.

reactant | 3-iodo-1H-quinolin-4-one | 5 mmol, 1.36 g, 1 equiv | IC1=CNC2=CC=CC=C2C1=O | C9H6INO
reactant | NaH | 0.22 g, 1.1 equiv | [H-].[Na+]
reactant | 2-Bromomethyl-6-methyl-pyridine | 1.11 g, 1.2 equiv | BrCC1=NC(=CC=C1)C | C7H8BrN
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-iodo-1-(6-methyl-pyridin-2-ylmethyl)-1H-quinolin-4-one | IC1=CN(C2=CC=CC=C2C1=O)CC1=NC(=CC=C1)C | C16H13IN2O
